US07790737B2
A solution of 3-bromo-6-methoxy-2-[(methoxymethoxy)methyl]pyridine (1.50 g, 5.72 mmol), tris(dibenzylideneacetone)(chloroform)dipalladium(0) (592 mg, 0.572 mmol), (2-biphenyl)di-t-butylphosphine (680 mg, 2.28 mmol), sodium t-butoxide (1.65 g, 17.2 mmol) and ethylamine (2.0 M solution in tetrahydrofuran, 15 mL, 30 mmol) in tetrahydrofuran (15 mL) was warmed to 135° C. over 3 minutes under microwave irradiation (500 W). The reaction mixture was cooled, then filtered through Celite, and washed with ethyl acetate. The reaction mixture was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to obtain N-ethyl-6-methoxy-2-[(methoxymethoxy)methyl]pyridin-3-amine (954 mg, 74%) as yellow oil.

reactant | 3-bromo-6-methoxy-2-[(methoxymethoxy)methyl]pyridine | 5.72 mmol, 1.50 g | BrC=1C(=NC(=CC1)OC)COCOC | C9H12BrNO3
reactant | sodium t-butoxide | 17.2 mmol, 1.65 g | CC(C)([O-])C.[Na+]
reactant | ethylamine | 30 mmol, 2.0 M, 15 mL | C(C)N | C2H7N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-ethyl-6-methoxy-2-[(methoxymethoxy)methyl]pyridin-3-amine | 954 mg, 74% | C(C)NC=1C(=NC(=CC1)OC)COCOC | C11H18N2O3
